US04929637
Step B: Preparation of 3-[1-(Methoxyethoxymethoxy)propyl]-2-methylthiothiophene
To a stirred solution of 3-(1-hydroxypropyl)2-methylthiothiophene (17.7 g, 0.094 mol) in dry methylene chloride (100 ml) was added methoxyethoxymethyl chloride (20.6 g, 0.165 mol) followed by N,N,-diisopropylethylamine (21.3 g, 0.165 mol). The mixture was stirred at room temperature overnight. The mixture was washed with water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo at room temperature to give 24.4 g of amber oil (94% yield). NMR confirmed the structure and mass spectral analysis confirmed the molecular weight at 276.09.

reactant | 3-(1-hydroxypropyl)2-methylthiothiophene | 0.094 mol, 17.7 g | OC(CC)C1=C(SC=C1)SC | C8H12OS2
reactant | methoxyethoxymethyl chloride | 0.165 mol, 20.6 g | COCCOCCl | C4H9ClO2
reactant | N,N,-diisopropylethylamine | 0.165 mol, 21.3 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-[1-(Methoxyethoxymethoxy)propyl]-2-methylthiothiophene | 24.4 g, 94% yield | COCCOCOC(CC)C1=C(SC=C1)SC | C12H20O3S2
